US05114958
2,6-Dichloro-3-methyl-N-[2-[5-[(4-methylphenyl)-sulfonyl]-1,2,4-thiadiazol-3-yl]phenyl]benzenamine
To a 155° C. solution of p-toluenesulfonyl cyanide (420 mg, 2.32 mmols) in 5 mL of m-dichlorobenzene is added 5-[2 [(2,6-dichloro-3-methylphenyl]amino]phenyl]-1,3,4-oxathiazol-2-one (442 mg, 1.25 mmols) in three portions. Heating is continued for 1.5 hours. The solution is cooled to room temperature and directly purified by flash chromatography, eluting with 10:1 hexane:diethyl ether providing 446 mg (73%) of 2,6-dichloro-3-methyl-N-[2-[5-[(4-methylphenyl)sulfonyl]-1,2,4-thiadiazol-3-yl]phenyl]benzenamide as a bright yellow solid; mp 130.5°-135° C.

reactant | p-toluenesulfonyl cyanide | 2.32 mmols, 420 mg | C1(=CC=C(C=C1)S(=O)(=O)C#N)C | C8H7NO2S
reactant | 5-[2 [(2,6-dichloro-3-methylphenyl]amino]phenyl]-1,3,4-oxathiazol-2-one | 1.25 mmols, 442 mg | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C1=NSC(O1)=O | C15H10Cl2N2O2S
solvent | m-dichlorobenzene | 5 mL | ClC1=CC(=CC=C1)Cl | C6H4Cl2
product | 2,6-Dichloro-3-methyl-N-[2-[5-[(4-methylphenyl)-sulfonyl]-1,2,4-thiadiazol-3-yl]phenyl]benzenamine | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C1=NSC(=N1)S(=O)(=O)C1=CC=C(C=C1)C | C22H17Cl2N3O2S2
